US05753657
To 0.5 g of 10-amino-7-chloro-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride suspended in 8 ml of dimethyl sulphoxide is added dropwise 0.45 ml of triethylamine, followed by a solution of 0.9 ml of phenyl isocyanate in 2 ml of dimethylformamide. The reaction medium is stirred for 2 hours at a temperature in the region of 20° C. and the precipitate formed is filtered off, washed with water and dried under reduced pressure (1 mmHg; 0.13 kPa) at 50° C. 0.15 g of 7-chloro-10-(3-phenylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is thus obtained, in the form of a white solid the melting point of which is greater than 260° C. (Analysis C20H14ClN5O2 ·0.6 DMF·0.8 H2O % calculated C: 61.31; H: 3.60; Cl: 9.05; N: 17.87; % found C: 61.1; H: 3.5; Cl: 9.4; N: 17.7).

reactant | 10-amino-7-chloro-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 0.5 g | Cl.NC1C=2C=CC(=CC2C=2NC(C=3N(C21)C=CN3)=O)Cl
reactant | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.9 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dimethyl sulphoxide | 8 ml | CS(=O)C | C2H6OS
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 7-chloro-10-(3-phenylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.15 g | ClC=1C=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C1)NC(=O)NC1=CC=CC=C1 | C20H14ClN5O2
